US06982348B2
2) 5,6-dihydronaphthalene-1-carboxylic acid
To a solution of methyl 5,6-dihydronaphthalene-1-carboxylate (0.276 g, 1.466 mmol) in methanol (30 ml) was added 1N aqueous sodium hydroxide solution (8.80 ml, 8.80 mmol) and the mixture was stirred at 70° C. for 8 hrs. The reaction solution was diluted with water, acidified with dilute hydrochloric acid and extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was crystallized from hexane to give the objective substance.

reactant | methyl 5,6-dihydronaphthalene-1-carboxylate | 1.466 mmol, 0.276 g | C1(=CC=CC=2CCC=CC12)C(=O)OC | C12H12O2
reactant | sodium hydroxide | 8.80 mmol, 1N, 8.80 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
product | 5,6-dihydronaphthalene-1-carboxylic acid | C1(=CC=CC=2CCC=CC12)C(=O)O | C11H10O2
